US05834506
[4-(4-Methyl-3-oxo-pentyl)-phenyl]-carbamic acid benzyl ester
A solution of 11.9 g (62 mmol) of crude 5-(4-amino-phenyl)-2-methyl-pentan-3-one (prepared in Example GGGGG) in 100 mL of acetonitrile was treated with 24.3 g (75 mmol) of cesium carbonate, and the mixture was stirred at 50° C. for 15 minutes. Benzyl chloroformate (10.7 mL, 75 mmol) was added all at once, and the mixture was stirred at room temperature for 90 minutes. The solvent was evaporated. The residue was partitioned between EtOAc and H2O; the organic layer was separated, washed with brine, dried (MgSO4), and concentrated. The product was chromatographed on silica gel, eluting with EtOAc:hexane (30:70), to give the title compound. 1H NMR (CDCl3) δ 1.01 (d, 6 H), 2.48-2.55 (m, 1 H), 2.67-2.82 (m, 4 H), 5.15 (s, 2 H), 6.58 (br s, 1 H), 7.08 (d, 2 H), 7.25-7.38 (m, 7 H).

reactant | 5-(4-amino-phenyl)-2-methyl-pentan-3-one | 62 mmol, 11.9 g | NC1=CC=C(C=C1)CCC(C(C)C)=O | C12H17NO
reactant | cesium carbonate | 75 mmol, 24.3 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | Benzyl chloroformate | 75 mmol, 10.7 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
product | [4-(4-Methyl-3-oxo-pentyl)-phenyl]-carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(NC1=CC=C(C=C1)CCC(C(C)C)=O)=O | C20H23NO3
